US04470976
4-Fluorophenyl 4-O-(α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside
A 4.0 g portion of 4-fluorophenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside was reacted as described in Example 8, giving 2.2 g of the intermediate as a white solid, [α]D26 =+52°±1° (0.872%, methanol).

reactant | 4-fluorophenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | C(C)(=O)O[C@H]1[C@H](SC2=CC=C(C=C2)F)O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O | C32H39FO17S
solvent | methanol | CO | CH4O
product | 4-Fluorophenyl 4-O-(α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | 2.2 g | [C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@H](SC2=CC=C(C=C2)F)O[C@@H]1CO)O)O | C18H25FO10S
